US06900243B2
a) [3-(5-Chloro-2-nitrophenoxy)hexyl]methylcarbamic acid 1,1-dimethylethyl ester
The subtitle compound was prepared according to the method of Example 3 step (b) using (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester and 4-chloro-2-fluoronitrobenzene in N,N-dimethylformamide.

reactant | (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CCC | C12H25NO3
reactant | 4-chloro-2-fluoronitrobenzene | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [3-(5-Chloro-2-nitrophenoxy)hexyl]methylcarbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CCC(CCC)OC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C18H27ClN2O5
